US08084481B2
N-tert.-butoxycarbonyl-[3-(trifluoromethyl)phenyl]-glycine
226 mg (1.03 mmol) of DL-[3-(trifluoromethyl)phenyl]-glycine are dissolved in 10 ml of an aqueous 5% sodium hydrogen carbonate solution and treated with 4 ml dioxan. 261 μl (1.13 mmol) of tert.-butyl dicarbonate are added and the mixture stirred overnight at RT. For the workup, the solution is carefully acidified to pH 2 with 1 N hydrochloric acid. The precipitated product is redissolved by addition of acetonitrile, and purified by preparative HPLC (Method 20). 135 mg (41% of theory) of the title compound are obtained.

reactant | [3-(trifluoromethyl)phenyl]-glycine | FC(C=1C=C(C=CC1)NCC(=O)O)(F)F | C9H8F3NO2
reactant | dioxan | 4 ml | O1CCOCC1 | C4H8O2
reactant | tert.-butyl dicarbonate | 1.13 mmol, 261 μl | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | N-tert.-butoxycarbonyl-[3-(trifluoromethyl)phenyl]-glycine | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC(=CC=C1)C(F)(F)F | C14H16F3NO4
